US08957074B2
Following general N—C coupling procedure 1, 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid methylamide, see WO 2010020675, (0.150 g, 0.538 mmol) was combined with 3-(6-amino-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (0.188 g, 0.565 mmol, 1.05 eq), which gave 3-[6-(7-cyclopentyl-6-methylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester as a yellow solid and was used directly in step 3. MS m/z 575.9 (M+H)+.

reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid methylamide | CNC(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1 | C13H15ClN4O
reactant | 3-(6-amino-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.565 mmol, 0.188 g, 1.05 eq | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)N | C17H24N4O3
product | 3-[6-(7-cyclopentyl-6-methylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(NC)=O)C1CCCC1 | C30H38N8O4
